US06110946
1-[4-(Tetrazol-5-yl)-phenyl]-4(S)-hydroxy-2-N-(N-methoxycarbonyl-(L)-tert-leucyl)amino-5(S)-N-(N-methoxycarbonyl-(L)-iso-leucyl)amino-6-phenyl-2-azahexane
Analogously to Example 26, 1-{4-[2-(1-methyl-1-phenyl-ethyl)-2H-tetrazol-5-yl]-phenyl}-4(S)-hydroxy-2-N-(N-methoxycarbonyl-(L)-tert-leucyl)amino-5(S)-N-(N-methoxycarbonyl-(L)-iso-leucyl)amino-6-phenyl-2-azahexane is deprotected with 80% sulfuric acid to form the title compound.

reactant | 1-{4-[2-(1-methyl-1-phenyl-ethyl)-2H-tetrazol-5-yl]-phenyl}-4(S)-hydroxy-2-N-(N-methoxycarbonyl-(L)-tert-leucyl)amino-5(S)-N-(N-methoxycarbonyl-(L)-iso-leucyl)amino-6-phenyl-2-azahexane | CC(C)(C1=CC=CC=C1)N1N=C(N=N1)C1=CC=C(C=C1)CN(C[C@@H]([C@H](CC1=CC=CC=C1)NC([C@@H](NC(=O)OC)[C@@H](C)CC)=O)O)NC([C@@H](NC(=O)OC)C(C)(C)C)=O | C43H59N9O7
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
product | 1-[4-(Tetrazol-5-yl)-phenyl]-4(S)-hydroxy-2-N-(N-methoxycarbonyl-(L)-tert-leucyl)amino-5(S)-N-(N-methoxycarbonyl-(L)-iso-leucyl)amino-6-phenyl-2-azahexane | N1N=NN=C1C1=CC=C(C=C1)CN(C[C@@H]([C@H](CC1=CC=CC=C1)NC([C@@H](NC(=O)OC)[C@@H](C)CC)=O)O)NC([C@@H](NC(=O)OC)C(C)(C)C)=O | C34H49N9O7
